US04367238
A mixture of 2-methoxy-3-(2-chlorophenylthio)benzyl alcohol (9 g), thionyl chloride (4.6 ml) and pyridine (3 drops) in dried benzene (60 ml) was refluxed under heating for 30 minutes. The reaction mixture was cooled to the ambient temperature and evaporated under reduced pressure. The residue was dissolved in diethyl ether, and the solution was washed with water, saturated aqueous sodium bicarbonate and water in turn, dried over magnesium sulfate and then evaporated under reduced pressure to give oily 2-chlorophenyl 2-methoxy-3-chloromethylphenyl thioether (9.2 g).

reactant | 2-methoxy-3-(2-chlorophenylthio)benzyl alcohol | 9 g | COC1=C(CO)C=CC=C1SC1=C(C=CC=C1)Cl | C14H13ClO2S
reactant | thionyl chloride | 4.6 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | 2-chlorophenyl 2-methoxy-3-chloromethylphenyl thioether | 9.2 g | COC1=C(C=CC=C1CCl)SC1=C(C=CC=C1)Cl | C14H12Cl2OS
